US06924400B2
(n) 3,4-bis(benzoyloxymethyl)benzyl bromide
40 g (106 mmol) of 2-benzoyloxymethyl-4-hydroxymethylbenzyl benzoate are placed in 500 ml of dichloromethane and 77.6 g (234 mmol) of carbon tetrabromide in a round-bottomed flask and under a stream of nitrogen. At 0° C., a solution of 61.3 g (233 mmol) of triphenylphosphine in 200 ml of dichloromethane is added dropwise. The mixture is allowed to warm to room temperature over 2 hours. The reaction medium is poured into water and extracted with dichloromethane. The organic phase is dried over magnesium sulfate, filtered and then evaporated. The residue is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (70/30) to give 32.6 g (70%) of the expected product in the form of a white powder.

reactant | 2-benzoyloxymethyl-4-hydroxymethylbenzyl benzoate | 106 mmol, 40 g | C(C1=CC=CC=C1)(=O)OCC1=C(C=C(C=C1)CO)COC(C1=CC=CC=C1)=O | C23H20O5
reactant | carbon tetrabromide | 234 mmol, 77.6 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 233 mmol, 61.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3,4-bis(benzoyloxymethyl)benzyl bromide | 32.6 g, 70% | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
